US07745451B2
A. 6-Benzyl-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine
The title compound was prepared substantially according to the procedure given for Compound 4A, using 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine (0.2 g, 0.77 mmol), and 4-(trifluoromethylsulphonyl)aniline (0.27 g, 1.2 mmol) to give the desired N-benzyl intermediate as a brown solid (278 mg. 82%).

reactant | 6-benzyl-4-chloro-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidine | 0.77 mmol, 0.2 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2Cl)CC1 | C14H14ClN3
reactant | 4-(trifluoromethylsulphonyl)aniline | 1.2 mmol, 0.27 g | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | 6-Benzyl-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)CC1 | C21H19F3N4O2S
